US07402595B2
2-(2,3-dihydrobenzofuran-5-ylmethyl)-6-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
A mixture of 6-bromo-2-(2,3-dihydrobenzofuran-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (300 mg), methylboronic acid (180 mg), tetrakis(triphenylphosphine)palladium(0) (70 mg), potassium carbonate (250 mg), toluene (6 ml) and THF (3 ml) was stirred at 100° C. under a nitrogen atmosphere for 12 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine. The solvent was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-hexane:ethyl acetate=2:1) and recrystallized (ethyl acetate-hexane) to give the title compound (230 mg).

reactant | 6-bromo-2-(2,3-dihydrobenzofuran-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 300 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC=1C=CC2=C(CCO2)C1 | C26H20BrNO4
reactant | methylboronic acid | 180 mg | CB(O)O | CH5BO2
reactant | potassium carbonate | 250 mg | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 70 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 2-(2,3-dihydrobenzofuran-5-ylmethyl)-6-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 230 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C)=O)CC=1C=CC2=C(CCO2)C1 | C27H23NO4
